US04259476
A 25.5 g. portion of 3,4-thiophenedicarboxylic acid {prepared by the method of Kornfeld and Jones [J. Org. Chem., 19, 1671 (1954)]} is suspended in 50 ml. of chloroacetyl chloride and is heated at reflux for 5.5 hours. Excess chloroacetyl chloride is distilled under reduced pressure. The residue is poured into 100 ml. of water and the resulting crystals are collected to yield 16.1 g. of 3,4-thiophenedicarboxylic anhydride.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 3,4-thiophenedicarboxylic anhydride | S1C=C2C(=C1)C(=O)OC2=O | C6H2O3S
product | 3,4-thiophenedicarboxylic acid | S1C=C(C(=C1)C(=O)O)C(=O)O | C6H4O4S
